US09422240B2
4-(Difluoromethoxy)-3,5-dimethylbenzaldehyde
To a mixture of 4-hydroxy-3,5-dimethylbenzaldehyde (2.00 g), N,N-dimethylformamide (54.0 mL) and water (6.00 mL), sodium chlorodifluoroacetate (6.09 g) and potassium carbonate (3.68 g) were added and the mixture was stirred at 120° C. for 4.5 hours. After cooling the reaction mixture to room temperature, water was added to it and two extractions were conducted with ethyl acetate. The combined organic layers were washed with water four times and thereafter washed with saturated brine. After drying over anhydrous magnesium sulfate, the desiccant was removed by filtration and the filtrate was then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=97:3-88:12) to give the titled compound as a colorless solid (2.53 g).

reactant | 4-hydroxy-3,5-dimethylbenzaldehyde | 2.00 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | N,N-dimethylformamide | 54.0 mL | CN(C=O)C | C3H7NO
reactant | sodium chlorodifluoroacetate | 6.09 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 3.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 6.00 mL | O | H2O
product | 4-(Difluoromethoxy)-3,5-dimethylbenzaldehyde | 2.53 g | FC(OC1=C(C=C(C=O)C=C1C)C)F | C10H10F2O2
